US06299887B1
To 14.6 g (0.095 mol) of phosphorus oxychloride in hexane, 51.4 g (0.190 mol) of 2-heptylundecyl alcohol, 19.2 g (0.190 mol) of triethylamine in hexane were added dropwise while maintaining the temperature at not higher than 0° C. After ripening the mixture at 25° C., a hydrochloric acid salt of triethylamine was removed by washing. The solvent was also removed to obtain 59.1 g (0.095 mol) of bis(2-heptylundecyl) phosphoric chloride (not less than 95% purity was confirmed by 31-NMR)

reactant | phosphorus oxychloride | 0.095 mol, 14.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-heptylundecyl alcohol | 0.190 mol, 51.4 g | C(CCCCCC)C(CO)CCCCCCCCC | C18H38O
reactant | triethylamine | 0.190 mol, 19.2 g | C(C)N(CC)CC | C6H15N
solvent | hexane | CCCCCC | C6H14
product | bis(2-heptylundecyl) phosphoric chloride | 0.095 mol, 59.1 g, not less than 95% | C(CCCCCC)C(C[ClH]P(=O)(Cl)[ClH]CC(CCCCCCCCC)CCCCCCC)CCCCCCCCC | C36H76Cl3OP
